US09447046B2
Preparation 175a: N-methyl-4-(oxan-4-yl)aniline
To a solution of compound 4-(3,6-dihydro-2H-pyran-4-yl)-N-methylaniline (200 mg, 1.05 mmol) in EtOAc (20 mL) under N2 was added 10% Pd/C (50 mg) at r.t. The reaction was stirred overnight under 1 atm H2. The reaction was filtered through Celite and concentrated to give 180 mg (89%) as a yellow solid. [M+H] Calc'd for C12H15NO, 190. Found, 190.

reactant | 4-(3,6-dihydro-2H-pyran-4-yl)-N-methylaniline | 1.05 mmol, 200 mg | O1CCC(=CC1)C1=CC=C(NC)C=C1 | C12H15NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-methyl-4-(oxan-4-yl)aniline | CNC1=CC=C(C=C1)C1CCOCC1 | C12H17NO
